US04088695
Dimethyl 3-methyl-2-oxoheptylphosphonate (5.1 g.; prepared as described in the Specification of Netherlands Patent Application No. 7203126) in dry tetrahydrofuran (20 ml.) was added dropwise to a stirred suspension of sodium hydride (0.52 g.) in dry tetrahydrofuran (150 ml.) at ambient temperature under nitrogen. The reaction mixture was stirred at ambient temperature until hydrogen evolution had ceased, and then treated with a solution of 7-formyl-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane (5.1 g.) in dry tetrahydrofuran (50 ml.). After stirring for a further period of 2 hours at ambient temperature the reaction mixture was acidified to pH 4 with glacial acetic acid and then concentrated under reduced pressure. The residue was triturated with diethyl ether and filtered. The filtrate was washed with dilute aqueous sodium carbonate solution and water respectively, then dried over sodium sulphate. Removal of the solvent under reduced pressure gave crude 6-(7-hydroxyheptyl)-7-(4-methyl-3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane (7.6 g.), νmax (liquid film) 3450 cm-1, 1680 cm-1, 1660 cm-1, 1620 cm-1, 1380 cm-1, 1040 cm-1, which was used in the next stage without further purification being necessary.

reactant | Dimethyl 3-methyl-2-oxoheptylphosphonate | CC(C(CP(OC)(OC)=O)=O)CCCC | C10H21O4P
reactant | sodium hydride | 0.52 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 7-formyl-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane | 5.1 g | C(=O)C1C(C2(OCCO2)CC1)CCCCCCCO | C15H26O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(7-hydroxyheptyl)-7-(4-methyl-3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 7.6 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(C(CCCC)C)=O | C23H40O4
